US04816452
b. 4-Nitrobenzyl (2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-carboxylate
(2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-carboxylic acid (930 mg, 3 mmol), 4-nitrobenzylbromide (660 mg, 3.05 mmol) and potassium carbonate (209 mg, 1.51 mmol) were stirred together in N,N-dimethylformamide (lOml) for 3.5 h. The mixture was poured into water (100 ml)/ethyl acetate (100 ml) and the layers separated. The aqueous layer was re-extracted with ethyl acetate (50 ml). The combined organic layers were washed with water (50 ml),×4), brine (20 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with ethyl acetate hexane mixture, followed by ethyl acetate to give the title compound (1.20 g, 90%) as a mixture of conformers/rotamers; νmax (CH2Cl2) 3610, 3470, 2960, 1735, 1710, 1610, 1535, and 1350 cm-1 ; δH (400 MHz, CDCl3) 1.90 (1H, broad d, J ca 7.4 Hz), 2.05-2.20 (1H, m), 2.3-2.5 (1H, m), 3.6-3.8 (2H, m), 4.58 (1H, broad d, J ca 9.3 Hz), 4.63 (1H, approx dt J 1.9, 8.1 Hz), 5.05-5.35 (4H, m,) 7.30-7.50 (4H, m), and 8.1-8.2 (4H, m); [Mass spectrum: M+ (445)].

reactant | (2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-carboxylic acid | 3 mmol, 930 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H14N2O7
reactant | 4-nitrobenzylbromide | 3.05 mmol, 660 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 1.51 mmol, 209 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-Nitrobenzyl (2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-carboxylate | 1.20 g, 90% | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H19N3O9
